US08067420B2
A mixture of 3-(4-(trifluoromethoxy)phenylthio)pyrazin-2(1H)-one (100 mg, 0.347 mmol), 1-(4-bromo-2-methylphenoxy)-2-methylpropan-2-ol (90 mg, 0.347 mmol), N1,N2-dimethylethane-1,2-diamine (92 mg, 1.041 mmol), copper(I) iodide (19.82 mg, 0.104 mmol) and K3PO4 (221 mg, 1.041 mmol) in dioxane (1.0 mL) was stirred at 115° C. in a sealed tube for 2 hours. After removal of the precipitate by filtration, the filtrate was concentrated. The crude product was purified by silica gel chromatography employing a solvent gradient (hexane to 100% EtOAc) to elute 1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-3-(4-(trifluoromethoxy)phenylthio)-pyrazin-2(1H)-one (18.65 mg, 0.040 mmol, 11.52% yield) as off-white solid. 1H NMR (500 MHz, methanol-d3) δ ppm 7.62-7.68 (2H, m), 7.37 (2H, d, J=7.97 Hz), 7.21-7.28 (3H, m), 7.16 (1H, d, J=4.40 Hz), 7.02 (1H, d, J=8.25 Hz), 3.84 (2H, s), 2.31 (3H, s), 1.36 (6H, s).

reactant | 3-(4-(trifluoromethoxy)phenylthio)pyrazin-2(1H)-one | 0.347 mmol, 100 mg | FC(OC1=CC=C(C=C1)SC=1C(NC=CN1)=O)(F)F | C11H7F3N2O2S
reactant | 1-(4-bromo-2-methylphenoxy)-2-methylpropan-2-ol | 0.347 mmol, 90 mg | BrC1=CC(=C(OCC(C)(O)C)C=C1)C | C11H15BrO2
reactant | N1,N2-dimethylethane-1,2-diamine | 1.041 mmol, 92 mg | CNCCNC | C4H12N2
reactant | K3PO4 | 1.041 mmol, 221 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.104 mmol, 19.82 mg | [Cu]I
product | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-3-(4-(trifluoromethoxy)phenylthio)-pyrazin-2(1H)-one | 0.040 mmol, 18.65 mg, 11.52% yield | OC(COC1=C(C=C(C=C1)N1C(C(=NC=C1)SC1=CC=C(C=C1)OC(F)(F)F)=O)C)(C)C | C22H21F3N2O4S
